US04144349
N,N-dimethyl-1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole-7-propanamine 3,3-dioxide
To a suspension of 2.1g (0.05 mole) of sodium hydride (57% dispersion in mineral oil) in 25 ml of dimethylformamide is added a solution of 12.47g (0.05 mole) of 1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole 3,3-dioxide in 50 ml of dimethylformamide with stirring under nitrogen. The resulting mixture is stirred at 30°-35° C. for one hour. A solution of 6.03g (0.05 mole) of 3-dimethylaminopropyl chloride (freshly distilled) in 25 ml of dimethylformamide is added and the mixture is stirred at room temperature for one hour and then heated in a wax bath at 90° C. for five hours. The dimethylformamide is removed in vacuo. The residue is dissolved in 10% hydrochloric acid and extracted with ether. The aqueous layer is made basic with sodium hydroxide and extracted with ether. The ether layer is washed with water, dried over sodium sulfate and the solvent is removed. Recrystallization from isopropyl ether gives 10.7g (64%) of an analytical sample, m.p. 119°-120° C.

reactant | sodium hydride | 0.05 mole, 2.1g | [H-].[Na+]
reactant | 1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole 3,3-dioxide | 0.05 mole, 12.47g | C1CS(CCCC=2NC=3C=CC=CC3C21)(=O)=O | C13H15NO2S
reactant | 3-dimethylaminopropyl chloride | 0.05 mole, 6.03g | CN(CCCCl)C | C5H12ClN
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N,N-dimethyl-1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole-7-propanamine 3,3-dioxide | CN(CCCN1C2=C(C=3C=CC=CC13)CCS(CCC2)(=O)=O)C | C18H26N2O2S
